US09085605B2
Liquid-phase synthesis of bipeptid fragment Boc-Ala-D-Glu(OBzl)-NH2
30 g (1.0 eq) Boc-D-Glu(OBzl)-NH2 was dissolved in 100 mL trifluoroacetic acid-dichloromethane (v/v=1:1), and the solution was stirred for 1 hour at r.t to remove Boc group. After the completion of the reaction, the TFA was removed under vacuum; the residue was repeatedly grinded and washed in anhydrous ether, and evaporated to dryness, and re-dissolved in tetrahydrofuran. The pH of the solution was adjusted to 7˜8 with N-methyl morpholine (NMM) in ice bath. The Boc-Ala-OSu solution was sparingly added to the solution in a few portions. The mixture was stirred for 5 hours in ice bath, and continued for 24 hours at r.t. After the completion of the reaction, the mixture was evaporated to dryness. The residue was dissolved in proper amount AcOEt and successively washed with diluted hydrochloric acid, saturated sodium bicarbonate aqueous solution and water. The AcOEt layer was separated, and dried with MgSO4 overnight. The mixture was filtered and the filtrate was evaporated to dryness. The residue was recrystallized from methanol and water, the crystal was washed with a big amount of ether to obtained 29.4 g target compound. Yield: 81%, m.p.=134˜135° C.

reactant | Boc-D-Glu(OBzl)-NH2 | 30 g, 1.0 eq | N([C@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N)C(=O)OC(C)(C)C | C17H24N2O5
reactant | trifluoroacetic acid dichloromethane | 100 mL | FC(C(=O)O)(F)F.ClCCl
product | Boc-Ala-D-Glu(OBzl)-NH2 | N([C@@H](C)C(=O)N[C@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N)C(=O)OC(C)(C)C | C20H29N3O6
